US08183242B2
To a stirred solution of N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (18.0 g) and hydrazine hydrate (9 mL) in ethanol (180 mL) was added activated nickel (0. g). The mixture was refluxed for 3 hours, filtrated and the filtrate was concentrated in vacuo to give solid, which was put in the fridge (0° C.) overnight. The residue was filtrated off and the filtrate was concentrated in vacuo to give N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine (15 g).

reactant | N-(5-nitro-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 18.0 g | [N+](=O)([O-])C=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H12N6O2
reactant | hydrazine hydrate | 9 mL | O.NN
solvent | ethanol | 180 mL | C(C)O | C2H6O
catalyst | nickel | [Ni] | Ni
product | N-(5-amino-2-methylpyrid-3-yl)-4-(pyrid-3-yl)-2-pyrimidinamine | 15 g | NC=1C=C(C(=NC1)C)NC1=NC=CC(=N1)C=1C=NC=CC1 | C15H14N6
